US04256739
A solution of 2.6 g (5 mmols) of 3-methylthio-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid p-nitrobenzyl ester in 75 ml of a warm 5:1 mixture of tetrahydrofurane and ethanol is added to a mixture, which has been pre-hydrogenated for 30 minutes in a hydrogenation apparatus, of 2.5 g of 5% strength palladium-on-charcoal catalyst in 10 ml of tetrahydrofurane/ethanol, 1:1, and the mixture is hydrogenated for 4 hours whilst stirring. The solution is filtered, the catalyst is washed with ethyl acetate and the filtrate and washing liquor are combined, washed successively with an aqueous citric acid solution and water and then extracted several times with 5% strength aqueous sodium bicarbonate solution. The bicarbonate extracts are combined, washed with methylene chloride, cooled to 0° C., slowly acidified with 2 N hydrochloric acid and extracted with ethyl acetate. The organic phase is washed with water and saturated aqueous sodium chloride solution, dried over sodium sulphate, filtered and evaporated. The residue is recrystallised from methylene chloride/diethyl ether and gives 3-methylthio-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid of melting point 164°-166° C. (decomposition); [α]D20 =+109°±1° (c=1; dioxane); thin layer chromatogram: silica gel (toluene/ethyl acetate/water, 5:5:1) Rf=0.16; UV spectrum (ethanol); λmax =269 nm (ε=4800), 276 nm (ε=5200) and 308 nm (ε=7700); IR spectrum (KBr): characteristic bands at 3.00; 3.40; 5.63; 5.91; 6.25; 6.53; 6.68; 8.20; 8.55; 8.90; 9.25; 9.43; 13.20 and 14.45μ.

reactant | 3-methylthio-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid p-nitrobenzyl ester | 5 mmols, 2.6 g | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)SC)C=C1 | C23H21N3O7S2
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
reactant | ethanol | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | tetrahydrofurane ethanol | 10 ml | O1CCCC1.C(C)O
product | 3-methylthio-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid | CSC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C16H16N2O5S2
